US04181663
To a chilled solution of 0.5 g. of 1-(3-selenyl-1-oxopropyl)-L-proline dissolved in 5 ml. of pyridine there is added dropwise with stirring 0.3 g. of benzoyl chloride. The mixture is allowed to come to room temperature. After three hours, the solvent is evaporated. The residue is taken up in ethyl acetate, washed with saturated sodium bicarbonate solution and then with water. The solvent is dried, and evaporated to yield 1-[1-oxo-3-[(benzoyl)-selenyl]propyl]-L-proline.

reactant | 1-(3-selenyl-1-oxopropyl)-L-proline | [SeH]CCC(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3Se
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-[1-oxo-3-[(benzoyl)-selenyl]propyl]-L-proline | O=C(CC[Se]C(C1=CC=CC=C1)=O)N1[C@H](C(=O)O)CCC1 | C15H17NO4Se
